US09284323B2
(2S)-2-tert-butoxy-2-(1-(4-chlorophenyl)-7-(3-(2,4-dimethylthiazol-5-yl)-3-hydroxybut-1-ynyl)-3-methylnaphthalen-2-yl)acetic acid was prepared by the method in Example 8 from ethyl 2-(7-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate and 2-(2,4-dimethylthiazol-5-yl)but-3-yn-2-ol. 1H-NMR: 400 MHz, (CD3OD) δ: 7.78 (d, J=8 Hz, 1H), 7.70 (s, 1H), 7.58 (m, 3H), 7.43 (d, J=8 Hz, 1H), 7.32 (m, 2H), 5.18 (s, 1H), 2.64 (s, 3H), 2.61 (s, 3H), 2.47 (s, 3H), 1.82 (s, 3H), 0.98 (s, 9H). LCMS-ESI+ (m/z): [M+H]+ calcd for C32H32ClNSO4: 562.2. found: 562.1.

reactant | ethyl 2-(7-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate | BrC1=CC=C2C=C(C(=C(C2=C1)C1=CC=C(C=C1)Cl)C(C(=O)OCC)OC(C)(C)C)C | C25H26BrClO3
reactant | 2-(2,4-dimethylthiazol-5-yl)but-3-yn-2-ol | CC=1SC(=C(N1)C)C(C)(C#C)O | C9H11NOS
product | (2S)-2-tert-butoxy-2-(1-(4-chlorophenyl)-7-(3-(2,4-dimethylthiazol-5-yl)-3-hydroxybut-1-ynyl)-3-methylnaphthalen-2-yl)acetic acid | C(C)(C)(C)O[C@H](C(=O)O)C1=C(C2=CC(=CC=C2C=C1C)C#CC(C)(O)C1=C(N=C(S1)C)C)C1=CC=C(C=C1)Cl | C32H32ClNO4S
